US06624158B2
5-[(3aR,4S,6R,6aR)-6-Methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-3-ethyl-1,2,4-oxadiazole
A solution of N′-({[(3aS,4S,6R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]carbonyl}oxy)propanimidamide (Preparation 12) (5.85 g, 20 mmol) in 2-methoxyethyl ether (20 ml) was heated at 120° C. for four hours. The reaction mixture was allowed to cool to room temperature and evaporated under reduced pressure. The final traces of 2-methoxyethyl ether were removed by co-evaporation with first xylene and then toluene. The title compound was obtained as a dark orange oil (5.22 g).

reactant | N′-({[(3aS,4S,6R,6aR)-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]carbonyl}oxy)propanimidamide | 20 mmol, 5.85 g | CO[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C(=O)ON=C(CC)N | C12H20N2O6
solvent | 2-methoxyethyl ether | 20 ml | COCCOCCOC | C6H14O3
product | 5-[(3aR,4S,6R,6aR)-6-Methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]-3-ethyl-1,2,4-oxadiazole | CO[C@@H]1O[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)C2=NC(=NO2)CC | C12H18N2O5
